US07262185B2
A mixture of 5-methyl-3-[(4-nitrophenylthio) methyl]imidazo[1,2-a]pyridine (1.80 g), reduced iron (1.68 g) and calcium chloride (0.33 g) in 15% water-containing ethanol (54 ml) was heated to reflux for 24 hours. The insolubles were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was extracted with ethyl acetate, washed with saturated brine, and dried over magnesium sulfate. The solvent was concentrated under reduced pressure. The obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 1:1→2:1), to give 4-[[(5-methylimidazo[1,2-a]pyridin-3-yl)methyl]thio]aniline (1.67 g) as yellow oil.

reactant | 5-methyl-3-[(4-nitrophenylthio) methyl]imidazo[1,2-a]pyridine | 1.80 g | CC1=CC=CC=2N1C(=CN2)CSC2=CC=C(C=C2)[N+](=O)[O-] | C15H13N3O2S
reactant | calcium chloride | 0.33 g | [Cl-].[Ca+2].[Cl-]
reactant | ethanol | 54 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-[[(5-methylimidazo[1,2-a]pyridin-3-yl)methyl]thio]aniline | 1.67 g | CC1=CC=CC=2N1C(=CN2)CSC2=CC=C(N)C=C2 | C15H15N3S
